US06582351B1
A mixture of 6-hydroxy-5-nitronicotinamide (343 g), phosphorus oxychloride (40 ml) and phosphorus pentachloride (1287 g) was heated at 130° C. for 3.5 hours. After cooling to ambient temperature, the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and an aqueous saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and evaporated to afford 6-chloro-5-nitronicotinonitrile (374 g) as an oil.

reactant | 6-hydroxy-5-nitronicotinamide | 343 g | OC1=NC=C(C(=O)N)C=C1[N+](=O)[O-] | C6H5N3O4
reactant | phosphorus pentachloride | 1287 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-5-nitronicotinonitrile | 374 g | ClC1=NC=C(C#N)C=C1[N+](=O)[O-] | C6H2ClN3O2
